US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(3-(4-methylpyridin-2-yloxy)phenyl)guanidine (0.2 g) in dichloromethane (2 ml) and ethanol (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at room temperature for 7 hours. The solvent was evaporated under reduced pressure. To the residue was added 20% ethanol in ethyl acetate (20 ml), and the resultant precipitate was collected by filtration and dried under reduced pressure to give (3-(4-methylpyridin-2-yloxy)-phenyl)guanidine dihydrochloride (125 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(4-methylpyridin-2-yloxy)phenyl)guanidine | 0.2 g | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)OC1=NC=CC(=C1)C)NC(=O)OC(C)(C)C | C23H30N4O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | (3-(4-methylpyridin-2-yloxy)-phenyl)guanidine dihydrochloride | 125 mg | Cl.Cl.CC1=CC(=NC=C1)OC=1C=C(C=CC1)NC(=N)N | InChI=1S/C13H14N4O.2ClH/c1-9-5-6-16-12(7-9)18-11-4-2-3-10(8-11)17-13(14)15;;/h2-8H,1H3,(H4,14,15,17);2*1H
